US04551465
2-Ethyl-1-[3-[4-[1-(2-methoxyphenyl)-1-hydroxypropyl]-phenoxy]-propyl]-piperidine
To 80 ml. of a 2.5 molar ethereal ethyl magnesium bromide solution a solution of 19.1 g. of 2-methoxy-4'-[3-(2-ethyl-piperid-1-yl)-propoxy]-benzophenone in 150 ml. of ether is added dropwise, with stirring at a temperature between 0° C. and 5° C., whereupon the reaction mixture is slightly boiled for one hour. After cooling the mixture is decomposed with a 10% aqueous ammonium chloride solution, and the aqueous phase is extracted with ether. The organic phase is washed to neutral with water, dried over anhydrous magnesium sulfate, and ether is distilled off under reduced pressure. Fractionation of the residue in vacuum yields 14.6 g. of the named compound, boiling at 224° to 226° C./13.3 Pa.

reactant | ethyl magnesium bromide | 2.5 molar | C(C)[Mg]Br
reactant | 2-methoxy-4'-[3-(2-ethyl-piperid-1-yl)-propoxy]-benzophenone | COC1=C(C(=O)C2=CC=C(C=C2)OCCCN2C(CCCC2)CC)C=CC=C1 | C24H31NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | 2-Ethyl-1-[3-[4-[1-(2-methoxyphenyl)-1-hydroxypropyl]-phenoxy]-propyl]-piperidine | C(C)C1N(CCCC1)CCCOC1=CC=C(C=C1)C(CC)(O)C1=C(C=CC=C1)OC | C26H37NO3
